US07202364B2
2-Chloro-4-bromo-5-cyclopropyl-6-fluoroaniline (14.0 g, 53 mmol), trimethylboroxine (13.4 g of 50% solution in THF, 53 mmol), tetrakis(triphenylphosphine)palladium(0) (2.5 g, 2.2 mmol) and potassium carbonate (14.0 g, 101 mmol) are combined and stirred in 250 mL of a 4:1 DME/water solution. The mixture is degassed by repeated alternating application of vacuum and positive nitrogen pressure (10×). The mixture is heated to reflux temperature for 2 days and then cooled to room temperature. Most of the DME is removed by rotary evaporator and the residual mixture is partitioned between Et2O (500 mL) and water (500 mL). The organic phase is washed with brine (3×250 mL), dried (MgSO4) and concentrated by rotary evaporator. The crude product is purified using flash chromatography (5% CH2Cl2/hexanes) to give 2-chloro-4-methyl-5-cyclopropyl-6-fluoroaniline a light yellow oil.

reactant | 2-Chloro-4-bromo-5-cyclopropyl-6-fluoroaniline | 53 mmol, 14.0 g | ClC1=C(N)C(=C(C(=C1)Br)C1CC1)F | C9H8BrClFN
reactant | trimethylboroxine | 53 mmol, 13.4 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 101 mmol, 14.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME water | 250 mL | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.2 mmol, 2.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-4-methyl-5-cyclopropyl-6-fluoroaniline | ClC1=C(N)C(=C(C(=C1)C)C1CC1)F | C10H11ClFN
